US09340538B2
Step D: Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1-methyl-1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(1-methyl-1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate (5 g, 12 mmol) was reacted with NBS (2.1 g, 12 mmol) in chloroform (150 mL) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (2.4 g, 40%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(1-methyl-1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 12 mmol, 5 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C1=NN(C=N1)C | C17H17BrFN5O2
reactant | NBS | 12 mmol, 2.1 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1-methyl-1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 2.4 g, 40% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C1=NN(C=N1)C | C17H16Br2FN5O2
